US07399780B2
2-Hydroxy-3-[5-(morpholin-4-ylmethyl)pyridin-2-yl]-1H-indole-5-carbonitrile
To a suspension of sodium hydride (105 mg, 2.62 mmol, 60% in oil) in N,N-dimethylformamide (2 mL) was added 5-cyanooxindole (310 mg, 1.96 mmol). The mixture was stirred at room temperature for 10 min. To the obtained yellowish solution was added 2-chloro-5-(morpholin-4-ylmethyl)pyridine 1-oxide (299 mg, 1.31 mmol) and the mixture was heated under nitrogen at 130° C. for 30 min. The dark reaction mixture was allowed to cool and the solvent was removed in vacuo. The residue was partitioned between a 2 M aqueous solution of HCl and ethyl acetate. The aqueous layer was carefully saturated with NaHCO3 (s) and extracted twice with ethyl acetate. The two last organic layers were combined, dried (Na2SO4) and the solvent was removed in vacuo. The residue was dissolved in ethyl acetate (50 mL) and a concentrated solution of phosphorus trichloride (0.5 mL, 5.7 mmol) in ethyl acetate (3 mL) was added. A yellowish precipitate was formed. The mixture was stirred at room temperature overnight and then heated at 60° C. for 30 min and finally at reflux for 10 min. The mixture was allowed to cool and was then diluted with ethyl actetate and washed with a saturated aqueous NaHCO3 solution. The aqueous layer was extracted repeatedly with ethyl acetate. The combined organic layers were dried (Na2SO4) and the solvent was removed in vacuo. The residue was purified on a silica gel column using chloroform/ethyl acetate, (9:1), as the eluent affording 195 mg (45% yield) of the title compound as a yellow solid: mp 228-230° C.; 1H NMR (DMSO-d6, 400 MHz) δ 14.79 (br s, 1 H), 10.87 (s, 1 H), 8.10 (s, 1 H), 7.91 (s, 1 H), 7.84 (d, J=9 Hz, 1 H), 7.79 (dd, J=9, 1 Hz, 1 H), 7.28 (d, J=8 Hz, 1 H), 7.00 (d, J=8 Hz, 1 H), 3.58 (t, J=4 Hz, 4 H), 3.39 (s, 2 H), 2.38 (br s, 4 H); 13C NMR (DMSO-d6, 100 MHz) δ 168.6, 148.4, 142.0, 136.9, 135.9, 125.2, 124.0, 122.3, 121.0, 118.7, 118.3, 108.7, 101.2, 84.4, 66.1, 58.3, 52.8; MS (ESP) m/z 335 (M++1).

reactant | sodium hydride | 2.62 mmol, 105 mg | [H-].[Na+]
reactant | 5-cyanooxindole | 1.96 mmol, 310 mg | C(#N)C=1C=C2CC(NC2=CC1)=O | C9H6N2O
reactant | 2-chloro-5-(morpholin-4-ylmethyl)pyridine 1-oxide | 1.31 mmol, 299 mg | ClC1=[N+](C=C(C=C1)CN1CCOCC1)[O-] | C10H13ClN2O2
reactant | phosphorus trichloride | 5.7 mmol, 0.5 mL | P(Cl)(Cl)Cl | Cl3P
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | 2-Hydroxy-3-[5-(morpholin-4-ylmethyl)pyridin-2-yl]-1H-indole-5-carbonitrile | 195 mg, 45% yield | OC=1NC2=CC=C(C=C2C1C1=NC=C(C=C1)CN1CCOCC1)C#N | C19H18N4O2
